US08278295B2
Preparation of 2-azetidin-3-yl-4,6-dimethylpyrimidine
Compound P15 was prepared according to the general procedure described for the synthesis of P12 in Preparation 12, except that 2-chloro-4,6-dimethylpyrimidine (the synthesis of 2-chloro-4,6-dimethylpyrimidine is described by G. Vlad & I. T. Horvath, J. Organic Chem., 2002, 67, 6550-6552) was used instead of 2-chloro-5-methylpyrimidine, to provide P15. Yield: 345 mg, 2.11 mmol, 43%. 1H NMR (400 MHz, CD3OD) δ 2.44 (s, 6H), 4.00 (m, 2H), 4.14 (m, 3H), 7.12 (s, 1H).

reactant | 2-chloro-4,6-dimethylpyrimidine | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | 2-chloro-5-methylpyrimidine | ClC1=NC=C(C=N1)C | C5H5ClN2
product | 2-azetidin-3-yl-4,6-dimethylpyrimidine | N1CC(C1)C1=NC(=CC(=N1)C)C | C9H13N3
